US06136823
Synthesis of 7-Amino-1-(5-amino-2,4-difluorophenyl)-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-7-fluoro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (70 mg) was added to a mixed liquid of 28% aqueous ammonia (85 mg) and pyridine (2 ml), and the mixture was stirred at 50° C. for 15 hours. The reaction mixture was acidified with 3% citric acid (20 ml), and solids formed were collected by filtration. The solids were subjected to azeotropic distillation with ethanol and toluene. Hexane was added to the residue to conduct filtration, thereby obtain the title compound (50 mg) as a yellow powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-7-fluoro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 70 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C=C12)F)[N+](=O)[O-])=O)C(=O)O)F)F | C16H8F3N3O5
reactant | ammonia | 85 mg | N | H3N
reactant | citric acid | 20 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 7-Amino-1-(5-amino-2,4-difluorophenyl)-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 50 mg | NC1=C(C=C2C(C(=CN(C2=C1)C1=C(C=C(C(=C1)N)F)F)C(=O)O)=O)[N+](=O)[O-] | C16H10F2N4O5
